US05158957
General procedure for the acylation of the 2-hydroxy methyl ergoline
1.0 mmol of ergoline is dissolved in 10 ml of glacial acetic acid. 5 ml (0.05 mol) of acetic anhydride and 0.8 g (0.01 mol) of anhydrous sodium acetate are added and allowed to stir overnight at room temperature. For working up, ice is added, it is stirred for 30 minutes and mixed with NH3 solution. After extraction with dichloromethane, drying of the organic phases on Na2SO4 and removal of the solvent in a vacuum, the raw product is obtained which is further purified by crystallization or chromatography.

reactant | ergoline | 1.0 mmol | C1CN[C@@H]2CC3=CNC4=CC=CC([C@H]2C1)=C34 | C14H16N2
reactant | acetic anhydride | 0.05 mol, 5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | 0.01 mol, 0.8 g | C(C)(=O)[O-].[Na+]
reactant | NH3 | N | H3N
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 2-hydroxy methyl ergoline | OCC1=C2C[C@H]3NCCC[C@@H]3C=3C=CC=C(N1)C32 | C15H18N2O
